US05155122
5-[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
To a solution of 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzoic acid hydrazine (2.8 g, 10.6 mmol) in ethanol (140 ml) and water (50 ml) is added 1N HCl (16 ml) and sodium cyanate (1.03 g, 16 mmol). The reaction mixture is stirred at room temperature for 30 minutes and at 35° C. for five minutes. The reaction mixture is cooled, evaporated, and partitioned between water (100 ml) and ethyl acetate (100 ml). The organic layer is dried (MgSO4) and evaporated. The crude product is cyclized by refluxing a solution in 1N NaOH (2-3 equiv.) for two hours. It is neutralized with 1N HCl and extracted with ethyl acetate. Pure 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one (0.32 g, 10%) is separated from 3,5-di-t-butyl-4-hydroxybenzoic acid by flash chromatography (silica, EtOAc), mp 276°-280° C.

reactant | 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzoic acid hydrazine | 10.6 mmol, 2.8 g | NN.CC(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C
reactant | HCl | 1N, 16 ml | Cl | ClH
reactant | sodium cyanate | 16 mmol, 1.03 g | [O-]C#N.[Na+]
reactant | NaOH | 1N, 2-3 equiv. | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 140 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 5-[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1NC(NN1)=O | C16H23N3O2
